US04582837
5-Aminocarbonylamino-2-(2'-methoxy-4'-methanesulfonyloxyphenyl)-benzimidazole
One gram (3.0 mmol) of 5-amino-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole were dissolved in 20 ml of pure tetrahydrofuran, and then 2.0 gm of potassium cyanate and 5 ml of 2M acetic acid were added successively. After the mixture refluxed for eight hours, the solvent was evaporated off in vacuo, and the residue was mixed with 10 ml of water and neutralized with 5% sodium bicarbonate solution. The crude product precipitated was subjected to suction filtration and chromatographed over 200 gm of silica gel (eluant: methylene chloride with 8% ethanol).

reactant | 5-amino-2-(2'-methoxy-4'-methanesulfonyloxy-phenyl)-benzimidazole | 3.0 mmol, One gram | NC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC)C=C1 | C15H15N3O4S
reactant | potassium cyanate | 2.0 gm | [O-]C#N.[K+]
reactant | acetic acid | 2M, 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-Aminocarbonylamino-2-(2'-methoxy-4'-methanesulfonyloxyphenyl)-benzimidazole | NC(=O)NC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)OS(=O)(=O)C)OC)C=C1 | C16H16N4O5S
